US05594131
The silylated 7-ACA slurry was added to the TMSI/NMP slurry and the mixture was agitated for 30 minutes at 15°-20° C. Next, iodotrimethylsilane (TMSI, 4.2 ml, 29.5 mmol) was added and the reaction mixture was warmed to about 37° C. for 40 hours under a slight stream of nitrogen. The thick product slurry was then cooled to about 5° C. and 2-propanol (10 ml) was added dropwise keeping the temperature at or below 10° C. After agitating the mixture for 15 minutes with continued cooling, a solution of hydriodic acid (20 ml of 57% HI in 30 ml of water) was added. The temperature was allowed to rise to 20° C. and the two-liquid phase mixture was agitated for 15 minutes at about 20° C. The rich aqueous phase was separated and the spent cyclohexane phase was washed with water (10 ml). The combined aqueous extract was treated with diatomaceous earth (3 g), agitated for 5 minutes at 20°-25° C. then treated with decolorizing carbon (4 g). After agitating for 30 minutes at 20°-25° C., the mixture was filtered and the spent cake was washed with water (40 ml). The filtrate was diluted with 2-propanol (500 ml) to crystallize the product. The resulting product slurry was cooled to 0°-5° C. and was agitated for 1 hour. The slurry was filtered and washed with 80 ml of 2-propanol:water (4:1) and 80 ml of 2-propanol. Further drying in vacuo at 45° C. afforded 18.5 g (59.2%) of crystalline (6R, 7R)-7-amino-3-[(1-methyl-1-pyrrolidinio)methyl]ceph-3-em-4-carboxylate monohydriodide. Purity as determined by HPLC was 97.3%. The 1H NMR spectrum observed with the title compound is the same as an authentic sample prepared by the method in the art using Freon TF (U.S. Pat. No. 4,714,760): 1H NMR (D2O, 360 MHz) δ: 2.14-2.32 (envelope, 4H, --N(CH3)CH2CH2 --), 3.00 (s, 3H, NCH3), 3.46-3.67 (m, 5H, --N(CH3)CH2CH2 ; SCH2), 3.96 (d, 1H, J=16.9 Hz, --SCH2), 4.09 (d, 1H, J=13.9 Hz, =CCH2N--), 4.73 (d, 1H, J=13.9 Hz, =CCH2N--), 5.21 (d, 1H, J=5.1 Hz, --COCHCHS--), 5.41 (d, 1H, J=5.1 Hz, --COCHCHS).

reactant | 7-ACA | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | TMSI NMP | [Si](C)(C)(C)I.CN1CCCC1=O
reactant | iodotrimethylsilane | 29.5 mmol, 4.2 ml | I[Si](C)(C)C | C3H9ISi
reactant | hydriodic acid | 20 ml | I | HI
solvent | 2-propanol | 10 ml | CC(C)O | C3H8O
product | (6R, 7R)-7-amino-3-[(1-methyl-1-pyrrolidinio)methyl]ceph-3-em-4-carboxylate monohydriodide | 18.5 g, 59.2% | I.N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]2(CCCC2)C)C(=O)[O-])C1=O | InChI=1S/C13H19N3O3S.HI/c1-16(4-2-3-5-16)6-8-7-20-12-9(14)11(17)15(12)10(8)13(18)19;/h9,12H,2-7,14H2,1H3;1H/t9-,12-;/m1./s1
